US08426420B2
(iv) 4-[(S)-2-({5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-tert-butoxycarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 9.5 g 4-{(S)-4-tert-Butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 80 ml DMF were added 2.5 g HOBt, 5.7 ml DIPEA and 3.9 g L-proline benzyl ester hydrochloride at 0° C. At this temperature were added 3.1 g EDC portionwise and the suspension allowed to warm to RT over a period of 12 h. The solvent was evaporated, the residue dissolved in ethyl acetate and subsequently extracted with aqueous LiCl (4 w/w), 0.1 M HCl and aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The crude product thus obtained was used in the subsequent reaction.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 9.5 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC=CC=C1)=O | C28H37N5O9
reactant | HOBt | 2.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 5.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | L-proline benzyl ester hydrochloride | 3.9 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | EDC | 3.1 g
product | 4-[(S)-2-({5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-tert-butoxycarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C40H50N6O10
